US07011838B2
Using 0.30 g of (3,4,4-trifluoro-3-butenyl)malononitrile, 5 ml of N,N-dimethylformamide, 75 mg of sodium hydride (60% in oil), and 0.52 g of 2-chloro-4-(trifluoromethyl)benzylbromide, and according to the process described in the Production Example 1, there was obtained 0.28 g of 2-(2-chloro-4-(trifluoromethyl)benzyl)-2-(3,4,4-trifluoro-3-butenyl)malononitrile (the present compound (62)).

reactant | (3,4,4-trifluoro-3-butenyl)malononitrile | 0.30 g | FC(CCC(C#N)C#N)=C(F)F | C7H5F3N2
reactant | sodium hydride | 75 mg | [H-].[Na+]
reactant | 2-chloro-4-(trifluoromethyl)benzylbromide | 0.52 g | ClC1=C(CBr)C=CC(=C1)C(F)(F)F | C8H5BrClF3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-chloro-4-(trifluoromethyl)benzyl)-2-(3,4,4-trifluoro-3-butenyl)malononitrile | 0.28 g, Yield: 45% | ClC1=C(CC(C#N)(C#N)CCC(=C(F)F)F)C=CC(=C1)C(F)(F)F | C15H9ClF6N2
